spice
* Transistor Q1
Q1 N4 Vin N5 Q1_model
* Transistor Q2
? Missing component
* Resistors
R1 N4 Vout 1k
RE N5 0 1k
* Voltage Sources
Vin Vin 0 DC 0
VCC VCC 0 DC 10
.model Q1_model NPN
.model Q2_model NPN
.end
